US07541458B2
Racemic cis-N-t-butoxycarbonyl-3-trimethylsilyloxy-4-phenyl-azetidin-2-one
Racemic cis-3-trimethylsilyloxy-4-phenyl-azetidin-2-one (11.5 g, 48.9 mmol) was dissolved in tetrahydrofuran (THF, 250 mL) at ambient temperature under nitrogen and di-tert-butyldicarbonate was added along with N,N-4-dimethylaminopyridine (DMAP, 0.185 g, 1.5 mmol) and the mixture was magnetically stirred until the evolution of gas ceased. The mixture was filtered through a bed of silica gel (10 g) and concentrated on the rotary evaporator to give white solid product. The product was washed with cold heptane (50 mL) and collected by vacuum filtration and dried to a constant weight of 12.3 g (75%) at ambient temperature and vacuum (0.2 mmHg). Mp: 75 to 77° C., 1H NMR (400 MHz, CDCl3) δ (ppm): −0.07 (s, 9H), 1.38 (s, 9H), 5.01 (d, J=5.6 Hz, 1H), 5.06 (d, J=5.6 Hz, 1H), 7.26 to 7.38 (m, 5H).

reactant | Racemic cis-3-trimethylsilyloxy-4-phenyl-azetidin-2-one | 48.9 mmol, 11.5 g | C[Si](O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O)(C)C | C12H17NO2Si
reactant | di-tert-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | Racemic cis-N-t-butoxycarbonyl-3-trimethylsilyloxy-4-phenyl-azetidin-2-one | C(C)(C)(C)OC(=O)N1C([C@H]([C@H]1C1=CC=CC=C1)O[Si](C)(C)C)=O | C17H25NO4Si
